US08957070B2
7-[Ethyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 7-[ethyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.54 g), 2N aqueous sodium hydroxide solution (2.2 mL), tetrahydrofuran (4 mL) and methanol (4 mL) was stirred at 50° C. for 1 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (0.43 g, yield 86%) as colorless crystals. melting point>222° C. (decomposition).

reactant | ethyl 7-[ethyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.54 g | C(C)N(C=1C=CC=C2C=C(NC12)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C17H18N2O4S2
reactant | sodium hydroxide | 2N, 2.2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 7-[Ethyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.43 g, yield 86% | C(C)N(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C15H14N2O4S2
